US07094801B2
4-{3E-[5-(3H-Imidazo[4,5-b]pyridin-2-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzoic acid
The title compound was prepared by condensing 5-(3H-imidazo[4,5-b]pyridin-2-yl)-2,4-dimethoxy-benzaldehyde (Ex-76B) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, mp 222–224° C., 60% yield. 1H-NMR (DMSO-d6) δ 8.75 (s, 1H), 8.38–8.40 (m, 1H), 8.18 (d, J=9 Hz, 2H), 7.99–8.08 (m, 4H), 7.83 (d, J=15 Hz, 1H), 7.28–7.33 (m, 1H), 6.91 (s, 1H), 4.11 (s, 3H), 4.04 (s, 3H). MS m/z=430 ([M+H]+).

reactant | 5-(3H-imidazo[4,5-b]pyridin-2-yl)-2,4-dimethoxy-benzaldehyde | N1=C(NC2=NC=CC=C21)C=2C(=CC(=C(C=O)C2)OC)OC | C15H13N3O3
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-{3E-[5-(3H-Imidazo[4,5-b]pyridin-2-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzoic acid | 60% yield | N1=C(NC2=NC=CC=C21)C=2C(=CC(=C(C2)/C=C/C(=O)C2=CC=C(C(=O)O)C=C2)OC)OC | C24H19N3O5
